US05212187
N-cyano-N'-[4-[N-[3-(4-fluorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]butyl]-N"-[2[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]guanidine
Preparation is effected analogously to Example 1, using 0.8 g (2.5 mmol) of N-[3-(4-fluorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,4-butanediamine and 0.95 g (2.5 mmol) of N-cyano-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-O-phenyl-isourea as starting materials. Working up by chromatography (eluant: methylene chloride/methanol 95+5) analogously to Example 1 yields the purified title compound in the form of a viscous oil; MS (+FAB method): m/z (rel. int.[%])=597 ([M+H]+ 1), 214 (100); IR (KBr): 2162 cm-1 (C≡N).

reactant | N-[3-(4-fluorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,4-butanediamine | 2.5 mmol, 0.8 g | FC1=CC=C(C=C1)C(CCN(CCCCN)C)C1=NC=CC=C1 | C19H26FN3
reactant | N-cyano-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-O-phenyl-isourea | 2.5 mmol, 0.95 g | C(#N)NC(OC1=CC=CC=C1)=NCCSCC=1N=C(SC1)NC(=N)N | C15H17N7OS2
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | N-cyano-N'-[4-[N-[3-(4-fluorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]butyl]-N"-[2[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]guanidine | C(#N)NC(=NCCSCC=1N=C(SC1)NC(=N)N)NCCCCN(C)CCC(C1=NC=CC=C1)C1=CC=C(C=C1)F | C28H37FN10S2
